US05641883
(v) Preparation of 8-t-butyl-3-cyclohexylaminomethyl-1-oxaspiro-(4,5)decane
To a solution of 8-t-butyl-3-aminomethyl-1-oxaspiro(4,5)-decane (1.2 g, 5.3 mmol), cyclohexanone (0.54 g, 5.5 mmol) and zinc chloride (0.4 g, 3 mmol) in methanol (15 ml) was added sodium cyanoborohydride (0.4 g, 6.4 mmol). The reacton mixture was stirred over night. The solvent was then evaporated in vacuo and the resulting residue was treated with a mixture of saturated aqueous sodium carbonate/toluene (50 ml each). The organic layer was separated, dried (MgSO4) and evaporated in vacuo to yield 1.7 g of a pale yellow oil which was purified by flash chromatography (toluene/ethanol 4:1). Evaporaton of the fractions containing the product yielded a colourless oil (1.5 g).

reactant | 8-t-butyl-3-aminomethyl-1-oxaspiro(4,5)-decane | 5.3 mmol, 1.2 g | C(C)(C)(C)C1CCC2(CC(CO2)CN)CC1 | C14H27NO
reactant | cyclohexanone | 5.5 mmol, 0.54 g | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 6.4 mmol, 0.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | zinc chloride | 3 mmol, 0.4 g | [Cl-].[Zn+2].[Cl-]
product | 8-t-butyl-3-cyclohexylaminomethyl-1-oxaspiro-(4,5)decane | 1.7 g | C(C)(C)(C)C1CCC2(CC(CO2)CNC2CCCCC2)CC1 | C20H37NO
